US07192982B2
Trifluoroacetic anhydride (0.043 mL, 0.37 mmol) and pyridine (0.074 mL, 0.93 mmol) were added to a solution of 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-fluoro-phenyl}-3-hydroxy-2-methoxy-propionic acid methyl ester (0.142 g, 0.31 mmol) in methylene chloride (1 mL) at 0° C. The resulting mixture was stirred for 4 hours at room temperature and was concentrated under vacuum. The residue was dissolved in ethyl acetate (50 mL) and 10% palladium on carbon (0.064 g) was added to the solution. The mixture was stirred under hydrogen pressure (5 atm) for 16 hours. The mixture was filtered through celite and concentrated under vacuum. The residue was purified by silica gel chromatography (silica gel, hexanes/ethyl acetate 4:1) to give 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-fluoro-phenyl}-2-methoxy-propionic acid methyl ester as a white solid (30 mg, 22%). 1H NMR (200 MHz, CDCl3): 7.60–7.50 (m, 4H); 7.46–7.27 (m, 3H); 7.18–7.09 (m, 1H); 7.03–6.96 (m, 2H); 6.70–6.61 (m, 2H); 4.17 (dt, 4H, J=9.1, 6.2); 4.00 (dd, 1H, J=7.3, 5.9); 3.74 (s, 3H); 3.37 (s, 3H); 3.13–2.93 (m, 2H); 2.28 (qn, 2H, J=6.2).

reactant | Trifluoroacetic anhydride | 0.37 mmol, 0.043 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.93 mmol, 0.074 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-fluoro-phenyl}-3-hydroxy-2-methoxy-propionic acid methyl ester | 0.31 mmol, 0.142 g | COC(C(C(O)C1=C(C=C(C=C1)OCCCOC1=CC=C(C=C1)C1=CC=CC=C1)F)OC)=O | C26H27FO6
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-fluoro-phenyl}-2-methoxy-propionic acid methyl ester | 30 mg, 22% | COC(C(CC1=C(C=C(C=C1)OCCCOC1=CC=C(C=C1)C1=CC=CC=C1)F)OC)=O | C26H27FO5
